US04629727
A mixture of 1-acetyl-1-(3,4-dichlorophenyl)cyclobutane (2.43 g), glycinamide hydrochloride (2.21 g) powdered potassium hydroxide (1.2 g) and sodium cyanoborohydride (1.5 g) in methanol (20 ml) was stirred at 0°-5° C. for 2 hours then for a total of 10 days at ambient temperature. The mixture was cooled and 5N hydrochloric acid added. The mixture was then basified, extracted into ether, washed with water, dried and evaporated to give an oil. This oil was dissolved in ether and a solution of maleic acid (1.0 g) in dry ether (100 ml) was added to give an oil which was dissolved in acetone. Ether was then added to give a white solid which was dissolved in water, basified and extracted into ether. Passing hydrogen chloride gas through the dried ethereal extract gave 2-{1-[1-(3,4-dichlorophenyl)cyclobutyl]ethylamino}acetamide hydrochloride (m.p. 240°-245° C.).

reactant | 1-acetyl-1-(3,4-dichlorophenyl)cyclobutane | 2.43 g | C(C)(=O)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl | C12H12Cl2O
reactant | glycinamide hydrochloride | 2.21 g | Cl.NCC(=O)N
reactant | sodium cyanoborohydride | 1.5 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | maleic acid | 1.0 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | methanol | 20 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-{1-[1-(3,4-dichlorophenyl)cyclobutyl]ethylamino}acetamide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1(CCC1)C(C)NCC(=O)N | InChI=1S/C14H18Cl2N2O.ClH/c1-9(18-8-13(17)19)14(5-2-6-14)10-3-4-11(15)12(16)7-10;/h3-4,7,9,18H,2,5-6,8H2,1H3,(H2,17,19);1H
